US09108957B2
1-Methyl-2-[6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepan-4-yl]-1H-[4,4′]bipyrimidinyl-6-one was prepared the same procedure as that of 2-{7-[4-(3-methyl-[1,2,4]-oxadiazole-5-yl)phenyl]-[1,4]-oxazepane-4-yl}-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one except for utilizing 6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepane hydrochloride instead of 7-[4-(3-Methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-[1,4]oxazepane hydrochloride. 1-Methyl-2-[6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepan-4-yl]-1H-[4,4′]bipyrimidinyl-6-one (A086) was obtained as white solid (0.05 g, 0.12 mmol, 59%).

reactant | 2-{7-[4-(3-methyl-[1,2,4]-oxadiazole-5-yl)phenyl]-[1,4]-oxazepane-4-yl}-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one | CC1=NOC(=N1)C1=CC=C(C=C1)C1CCN(CCO1)C1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C23H23N7O3
reactant | 6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepane hydrochloride | Cl.O1N=C(N=C1)C1=CC=C(C=C1)C1CNCCOC1
product | 1-Methyl-2-[6-(4-[1,2,4]oxadiazol-3-yl-phenyl)-[1,4]oxazepan-4-yl]-1H-[4,4′]bipyrimidinyl-6-one | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1CCOCC(C1)C1=CC=C(C=C1)C1=NOC=N1 | C22H21N7O3
